US07786304B2
U.S. Pat. No. 3,862,149 describes a process for preparing zopiclone. The process comprises reacting 2-amino-5-chloropyridine with pyrazine 2,3-dicarboxylic acid anhydride to obtain 3-(5-chloropyrid-2-yl)carbamoyl-pyrazine-2-carboxylic acid, which is further treated with thionyl chloride to obtain 6-(5-chloropyrid-2-yl)-5,7-dioxo-5,6-dihydro-5H-pyrrolo[3,4-b]pyrazine 6-(5-chloropyrid-2-yl)-5,7-dioxo-5,6-dihydro-5H-pyrrolo[3,4-b]pyrazine is reduced using potassium borohydride in a mixture of dioxane and water followed by neutralization with acetic acid to obtain 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-5,6-dihydro-5H-pyrrolo[3,4-b]-pyra-zine. The reaction of 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-5,6-dihydro-5H-pyrrolo[3,4-b]pyra-zine with 1-chlorocarbonyl-4-methyl piperazine in anhydrous dimethyl formamide and sodium hydride (50% dispersion in mineral oil) yields the final product, Zopiclone.

reactant | zopiclone | CN1CCN(CC1)C(=O)OC2C3=C(N=CC=N3)C(=O)N2C=4C=CC(=CN4)Cl | C17H17ClN6O3
reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | pyrazine 2,3-dicarboxylic acid anhydride | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
product | 3-(5-chloropyrid-2-yl)carbamoyl-pyrazine-2-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)C=1C(=NC=CN1)C(=O)O | C11H7ClN4O3
